US06603008B1
1-(4-Bromo-3-fluorophenyl)-1-butanone (Step 3)
To a stirred solution of 4-Bromo-3-fluoro-N-methoxy-N-methylbenzamide (3.0 g, 12.19 mmol) in tetrahydrofuran (35 ml) was added 2M n-propylmagnesium bromide (12.2 ml, 24.38 mmol) dropwise under nitrogen at 0° C. The reaction mixture was stirred at room temperature for 2 h. This was quenched by sat. ammonium chloride and stirred at rt for 30 min. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The extracts was dried (MgSO4) and concentrated. This was purified on silica gel eluting with ethyl acetate/hexane (1:10) to afford 2.44 g (81.7%) of the titled compound as a slight yellow oil.

reactant | 4-Bromo-3-fluoro-N-methoxy-N-methylbenzamide | 12.19 mmol, 3.0 g | BrC1=C(C=C(C(=O)N(C)OC)C=C1)F | C9H9BrFNO2
reactant | n-propylmagnesium bromide | 24.38 mmol, 2M, 12.2 ml | C(CC)[Mg]Br
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 1-(4-Bromo-3-fluorophenyl)-1-butanone | 2.44 g, 81.7% | BrC1=C(C=C(C=C1)C(CCC)=O)F | C10H10BrFO
